US04971982
In an analogous manner to that described in the first paragraph of Example 8, from 0.35 g of 6-[5-cyano-2-hydroxy-1-(2-methylpropenyl)benzyl]pyrazine 1-oxide there was obtained 0.02 g of 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyrazine 1-oxide in the form of a white solid of melting point 166°-168° C. (from diethyl ether).

reactant | 6-[5-cyano-2-hydroxy-1-(2-methylpropenyl)benzyl]pyrazine 1-oxide | 0.35 g | C(#N)C=1C=CC(C(CC2=CN=CC=[N+]2[O-])(C1)C=C(C)C)O | C16H17N3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyrazine 1-oxide | 0.02 g | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CN=C2)[O-])C1 | C16H15N3O2
